US08304446B2
5-Fluoro-4-(methyloxy)-1H-indazol-3-amine
A mixture of 3,6-difluoro-2-methyloxybenzonitrile (for a preparation see Intermediate 55) (30 g, 184 mmol) in ethanol (300 mL) was reacted with Hydrazine Monohydrate (Alfa, 89 mL, 1.84 mol, 10 equiv.). The resulting mixture was heated at reflux overnight then allowed to cool to room temperature. Silica was added to the mixture which was then evaporated to dryness. The pre-absorbed crude reaction mixture was then purified by chromatography eluting with petrol up to EtOAc (10% steps, 500 mL per step) to give the title compound (8.4 g, 25%) as a yellow solid.

reactant | 3,6-difluoro-2-methyloxybenzonitrile | FC=1C(=C(C#N)C(=CC1)F)OC | C8H5F2NO
reactant | Hydrazine Monohydrate | 1.84 mol, 89 mL, 10 equiv. | O.NN
reactant | ethanol | 300 mL | C(C)O | C2H6O
product | 5-Fluoro-4-(methyloxy)-1H-indazol-3-amine | 8.4 g, 25% | FC=1C(=C2C(=NNC2=CC1)N)OC | C8H8FN3O
